US06503903B1
a) tert-Butyl (R)-4-fluoro-3-[[[N-(benzyloxycarbonyl)serinyl]methylamino]methyl]benzoate
According to the procedure of Preparation 4(c), except using tert-butyl 4-fluoro-3-(methylaminomethyl)benzoate (4.00 g, 16.7 mmole), N-(benzyloxycarbonyl)-D-serine (4.00 g, 16.7 mmole), HOBt.H2O (2.3 g, 17 mmole), DCC (2.4 g, 11.6 mmole), and 1:1 DMF/CH2Cl2 (100 mL), the title compound (6.60 g, 79%) was prepared as a sticky foam following flash chromatography on silica gel (50% EtOAc/hexanes): MS (ES) m/e 461.1 (M+H)+.

reactant | tert-butyl 4-fluoro-3-(methylaminomethyl)benzoate | 16.7 mmole, 4.00 g | FC1=C(C=C(C(=O)OC(C)(C)C)C=C1)CNC | C13H18FNO2
reactant | N-(benzyloxycarbonyl)-D-serine | 16.7 mmole, 4.00 g | C(C1=CC=CC=C1)OC(=O)N[C@H](CO)C(=O)O | C11H13NO5
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 17 mmole, 2.3 g | O | H2O
reactant | DCC | 11.6 mmole, 2.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF CH2Cl2 | 100 mL | CN(C)C=O.C(Cl)Cl
product | tert-Butyl (R)-4-fluoro-3-[[[N-(benzyloxycarbonyl)serinyl]methylamino]methyl]benzoate | 6.60 g, 79% | FC1=C(C=C(C(=O)OC(C)(C)C)C=C1)CNCC([C@H](NC(=O)OCC1=CC=CC=C1)CO)=O | C24H29FN2O6
